datasets/10k__Tet_Int.csv
SMILES Labelled
"C[O+:21]=[C:20]2[S][CH](C)[CH](C)C(C)[S]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C(C)[CH](C)[S]1 10=20;20,21=21"
"CN([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)CCCCCC)CC>>CN([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)CCCCCC)[O-:10])CC 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)[H])[O-:10])CCCCCC>>CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)[H])CCCCCC 10=20;20,21=21"
"[H][S:10]C(CC)C([H])C([H])[O][C:20]([O]C)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])C([H])[O]1)[C:20]1([O:21][H])[O]C 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"CCN([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)[H])[O-:10])CCCCCC>>CCN([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)[H])CCCCCC 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)[H])C>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])C.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21][H])[H])[H]>>CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])[H].[O-:21][H] 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C(C)[CH](C)[NH]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]CC)[S]CC.[Cl-]>>[Cl-].CC[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]CC)[S]CC 21=20;20,10=10"
"[H][NH+:10](C([H])C([H])C(CC)[NH]1)[C:20]1([NH:21]CC)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(CC)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]CC 21=20;20,10=10"
"[H][S:10]C(CC)C(C8=CC=CC=C8)[O][C:20]([S]C7=CC=CC=C7)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][Si](C)(C)(C))[S]C7=CC=CC=C7 10=20;20,21=21"
"[O:10]([Na])C(C)C(C)N([C:20](OCC)=[O:21])C>>[O-:21][C:20]1(OCC)[O+:10]([Na])C(C)C(C)N1C 10=20;20,21=21"
"[O:10]([Na])C([H])C([H])C([C:20](OCC)=[O:21])O>>[O-:21][C:20]1(OCC)[O+:10]([Na])C([H])C([H])C1O 10=20;20,21=21"
"[OH:10]C([H])/C(C)=C([C:20](OC)=[OH+:21])/[H]>>[OH:21][C:20]1(OC)[OH+:10]C([H])C(C)=C1[H] 10=20;20,21=21"
"[H][O:10][H].[H][O+:21]=[C:20]([S][H])[O]CC.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([O:21][H])([S][H])[O]CC 10=20;20,21=21"
"[OH:10]C([H])C(C)C(O)C(C)[C:20](OCC)=[OH+:21]>>[OH:21][C:20]1(OCC)C(C)C(O)C(C)C([H])[OH+:10]1 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21]C)[S][CH](C)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[S][CH](C)[CH](C)C(CC)[O]2.CC[O:10][H] 21=20;20,10=10"
"[O:10]([K])C(CC)C(C)C(C)C(O)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(O)C(C)C(C)C(CC)[O+:10]1([K]) 10=20;20,21=21"
"CC1C(C(O[C:20](N1C)([O-:10])[O:21][H])[H])C>>CC1C(C(O[C:20](=[O:10])N1C)[H])C.[O-:21][H] 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C(C)[NH][C:20]([NH]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C)[NH]1)[C:20]1([NH:21][H])[NH]C 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C(C)[CH](C)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(C)[O]2.CC[O:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([O:21]C)[O][CH](C)C(C)[CH](C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].C[O+:21]=[C:20]2[O][CH](C)[CH](C)C(C8=CC=CC=C8)[S]2.CC[O:10][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)CC)CC>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])CC)CC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[OH:21][CH:20]2(OCC)C3=C(C(C([NH+:10]2([H]))[H])[H])C=CC=C3>>[NH:10]([H])C(C(C1=C(C=CC=C1)[CH:20](OCC)=[OH+:21])[H])[H]  21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)C)CC)[H])[O-:10])CC>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])C)CC)[H])CC 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)C)CCCCCC)C)[O-:10])C>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C)CCCCCC)C)C 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH](C)C(C8=CC=CC=C8)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O][H].[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S][C:20]([O][H])=[O+:21]C 21=20;20,10=10"
"C[S+:10]([H])[C:20]([O:21]C)([S][H])[O]C.[Cl-]>>[Cl-].C[S:10][H].C[O+:21]=[C:20]([S][H])[O]C 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C8=CC=CC=C8)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"[NH:10]([H])C(CC)C([H])/C([H])=C(C)\[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(C)=C([H])C([H])C(CC)[NH+:10]1([H]) 10=20;20,21=21"
"[H][S:10]C([H])C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)[H])[H])[H])[O-:10])CCCCCC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])[H])[H])[H])CCCCCC 10=20;20,21=21"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])[NH]1)[C:20]1([NH:21]CC)[O][H].[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])[NH][C:20]([O][H])=[NH+:21]CC 21=20;20,10=10"
